Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
found down at the gym
 
Major Surgical or Invasive Procedure:
Deceased

 
History of Present Illness:
Mr. ___ is a ___ year-old man with hx of afib on coumadin who
presents with left thalamic hemorrhage with intraventricular
extension. 

He was found down at the gym and was taken to OSH where INR was
3.0 and NCHCT showed small left thalamic hemorrhage. INR was
reversed with Kcentra and he was transferred for further
management. 

Initially in the ED, he was described to be awake, dysarthric,
with R hemiparesis and was placed on a nicardepine gtt. NCHCT 
and
CTA was repeated with showed expansion of the hemorrhage into 
b/l
lateral ventricles as well as into the third and fourth
ventricles with developing obstructive hydrocephalus.
Neurosurgery was consulted and on their evaluation, the patient
had worsening exam with loss of consciousness, no eye opening,
and no verbal response. 

Pt made CMO after discussion with goals of care with family. 

 
Past Medical History:
Atrial fibrillation on Coumadin
HTN
Prior stroke

 
Social History:
___
Family History:
Father died at age ___ from MI.  Paternal grandfather
died at age ___ from MI.
             
 
Physical Exam:
PHYSICAL EXAMINATION (Initial exam @ 21:00)
T:97.2  BP: 167/92   HR:54    R:18       O2Sats:96%
General:  NAD
HEENT: NCAT
___: Well perfused. 
Pulmonary: Breathing comfortably on room air. 
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination: 
___ Stroke Scale - Total [12]
1a. Level of Consciousness - 1
1b. LOC Questions - 1
1c. LOC Commands - 0
2. Best Gaze - 2
3. Visual Fields - ?
4. Facial Palsy - 2
5a. Motor arm, left - 0
5b. Motor arm, right - 2
6a. Motor leg, left - 0
6b. Motor leg, right - 2
7. Limb Ataxia - ?
8. Sensory - 0
9. Language - ? (followed commands and stated age)
10. Dysarthria - 2
11. Extinction and Neglect - ?

- Mental status: Eyes open to voice. Follows commands to
open/close eyes and grip/release hands bilaterally. Answered age
"___" though with severe dysarthria. 

- Cranial Nerves: Right pupil 2->1.5mm sluggish. Left pupil 6mm
non-reactive (not surgical). Left gaze deviation, unable to 
cross
midline to right. Near total paralysis of right lower face.
Hearing intact to speech. 

- Motor:  Normal bulk and tone. No tremor or asterixis.
  [___]
L         5    5                 5    5     5   ___nd RLE antigravity to noxious
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 

- Sensory: Grimaced to pinch of all 4 extremities. 

- Coordination: Unable to test. 

- Gait: Deferred. 

DISCHARGE EXAM: 
**deceased**

 
Pertinent Results:
ADMISSION LABS: 
===============

___ 08:45PM URINE  HOURS-RANDOM
___ 08:45PM URINE  UHOLD-HOLD
___ 08:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:45PM URINE  BLOOD-MOD* NITRITE-POS* PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:45PM URINE  RBC-7* WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 08:33PM   GLUCOSE-90 UREA N-19 CREAT-1.0 SODIUM-142 
POTASSIUM-3.5 CHLORIDE-101 TOTAL CO2-28 ANION GAP-13
___ 08:33PM   estGFR-Using this
___ 08:33PM   WBC-8.5 RBC-4.50* HGB-14.2 HCT-42.7 MCV-95 
MCH-31.6 MCHC-33.3 RDW-13.9 RDWSD-48.2*
___ 08:33PM   NEUTS-74.7* LYMPHS-11.6* MONOS-8.7 EOS-4.2 
BASOS-0.6 IM ___ AbsNeut-6.33* AbsLymp-0.98* AbsMono-0.74 
AbsEos-0.36 AbsBaso-0.05
___ 08:33PM   PLT COUNT-195
___ 08:33PM   PLT COUNT-195

IMAGING: 
========
CT head: The left thalamic hemorrhage has significantly 
increased
in size, now measuring approximately 1.6 x 1.4 cm in maximum
axial ___. There is new ventricular breakthrough with
acute hemorrhage filling the third ventricle and lateral
ventricles bilaterally. There is also acute hemorrhage within 
the
fourth ventricle. The ventricles have slightly increased in size
compared to prior, raising concern for developing hydrocephalus.
No evidence of acute territorial infarction.

CTA head and neck: There is a serpiginous focus of high density
material within the ___ the left thalamic hemorrhage, 
which
is concerning for active extravasation (series 3, image 322),
however evaluation is limited without delayed images, and a
definitive feeding vessel is not identified.

Normal 3 vessel takeoff. Moderate atherosclerotic calcifications
of the aortic arch, at the origin of the head and neck vessels,
the carotid bifurcations, and cavernous carotid arteries
bilaterally. No evidence of high-grade stenosis, large vessel
occlusion, aneurysm, or dissection. The dural venous sinuses are
patent. Septal thickening within the bilateral lung apices is
likely due to fluid overload. Air within the bilateral neck
vessels and cavernous sinuses likely due to peripheral 
injection.

 
Brief Hospital Course:
___ year-old man with hx of afib on coumadin who presents after 
being found down at the gym and was found to have left thalamic 
hemorrhage with intraventricular extension and obstructive 
hydrocephalus. Neurologic exam on admission was poor, 
significant for somnolence, left gaze deviation, near total 
right facial paralysis, right arm and leg weakness, and severe 
dysarthria. He was unable to fully assess aphasia due to level 
of alertness, though followed simple commands and able to state 
his age. After arrival to the ED, CTA was performed due to his 
exam being worse than the prior imaging would have suggested. 
This revealed intraventricular expansion of the bleed, as well 
as expansion of the ventricles and hydrocephalus. His exam also 
worsened, with increasing somnolence. Through GOC discussions, 
the patient was made CMO status. I was called to the bedside by 
nursing because the patient had stopped breathing. The patient 
had no breath sounds, no cardiac sounds, no carotid pulse. No 
withdrawal to noxious stimuli, pupils were fixed and dilated. 
Time of death 15:43. I expressed my condolences to the family 
(wife and daughter) who were at the bedside. The family 
consented to an autopsy. I filled out the consent form and 
notified the pathology resident.
 
Medications on Admission:
CILOSTAZOL - cilostazol 100 mg tablet. 1 Tablet(s) by mouth 
twice
a day -  (Prescribed by Other Provider)
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 50 mg tablet. 1
Tablet(s) by mouth daily -  (Prescribed by Other Provider)
LISINOPRIL - lisinopril 10 mg tablet. 1 Tablet(s) by mouth qAM - 

(Prescribed by Other Provider)
LISINOPRIL - lisinopril 20 mg tablet. 1 Tablet(s) by mouth daily
-  (Prescribed by Other Provider)
METOPROLOL SUCCINATE - metoprolol succinate ER 50 mg
tablet,extended release 24 hr. 1 Tablet(s) by mouth daily - 
(Prescribed by Other Provider)
WARFARIN - warfarin 5 mg tablet. 1 Tablet(s) by mouth daily - 
(Prescribed by Other Provider)
ASPIRIN - aspirin 81 mg chewable tablet. 1 Tablet(s) by mouth
daily -  (Prescribed by Other Provider)

 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Non traumatic thalamic hemorrhage 
atrial fibrillation

 
Discharge Condition:
Deceased

 
Discharge Instructions:
Deceased
 
Followup Instructions:
___